US07199154B2
(2S)-2-[((2Z)-3-[4-(methylsulfonyl)phenyl]-4-{[6-(nitrooxy)hexanoyl]oxy}-2-phenylbut-2-enoyl)oxy]propanoic acid
The titled compound (0.25 g) was obtained as a white powder after a TFA treatment of the (1S)-2-tert-butoxy-1-methyl-2-oxoethyl (2Z)-3-[4-(methylsulfonyl)phenyl]-4-{[6-(nitrooxy)hexanoyl]oxy}-2-phenylbut-2-enoate as prepared above. 1H NMR (500 MHz, Acetone-d6): δ 7.80 (d, 2 H), 7.48 (d, 2 H), 7.17–7.09 (m, 5 H), 5.34 (s, 2 H), 5.25 (m, 1 H), 4.50 (t, 2 H), 3.08 (s, 3 H), 2.25 (t, 2 H), 1.69 (m, 2 H), 1.55 (d, 3 H), 1.49 (m, 2 H), 1.32 (m, 2 H).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (1S)-2-tert-butoxy-1-methyl-2-oxoethyl (2Z)-3-[4-(methylsulfonyl)phenyl]-4-{[6-(nitrooxy)hexanoyl]oxy}-2-phenylbut-2-enoate | CS(=O)(=O)C1=CC=C(C=C1)/C(=C(/C(=O)O[C@H](C(=O)OC(C)(C)C)C)\C1=CC=CC=C1)/COC(CCCCCO[N+](=O)[O-])=O | C30H37NO11S
product | (2S)-2-[((2Z)-3-[4-(methylsulfonyl)phenyl]-4-{[6-(nitrooxy)hexanoyl]oxy}-2-phenylbut-2-enoyl)oxy]propanoic acid | 0.25 g | CS(=O)(=O)C1=CC=C(C=C1)/C(=C(/C(=O)O[C@H](C(=O)O)C)\C1=CC=CC=C1)/COC(CCCCCO[N+](=O)[O-])=O | C26H29NO11S
